US04695575
A mixture of 1.7 parts of 2-chloropyrimidine, 5.5 parts of 4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidineethanamine, 2.12 parts of sodium carbonate, 0.1 parts of potassium iodide and 90 parts of N,N-dimethylformamide was stirred overnight at 60°-70° C. Water was added and the product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) saturated with ammonia, as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 1,1'-oxybisethane. The product was filtered off and dried, yielding 2.6 parts (40%) of N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]-2-pyrimidinamine; mp. 125.1° C. (374).

reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
reactant | 4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidineethanamine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)CC2CCN(CC2)CCN | C22H27FN4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]-2-pyrimidinamine | 40% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)CC2CCN(CC2)CCNC2=NC=CC=N2 | C26H29FN6
